US07300907B2
A suspension of 3-bromo-6-chloro-2-fluorobenzaldehyde (9.0 g, 0.04 mol) and hydroxylamine-O-sulfonic acid (7.50 g, 0.07 mole) in water (300 mL) was heated at 50° C. for eighteen hours. The suspension was cooled and the solid was collected to give 3-bromo-6-chloro-2-fluorobenzonitrile (8.8 g, 0.04 mol): 1H NMR (CDCl3): δ 7.75 (m, 1H), 7.25 (m, 1H).

reactant | 3-bromo-6-chloro-2-fluorobenzaldehyde | 0.04 mol, 9.0 g | BrC=1C(=C(C=O)C(=CC1)Cl)F | C7H3BrClFO
reactant | hydroxylamine-O-sulfonic acid | 0.07 mole, 7.50 g | NOS(=O)(=O)O | H3NO4S
solvent | water | 300 mL | O | H2O
product | 3-bromo-6-chloro-2-fluorobenzonitrile | 0.04 mol, 8.8 g | BrC=1C(=C(C#N)C(=CC1)Cl)F | C7H2BrClFN
